US06297400B1
Methyloctylmalonic Acid
To a stirring mixture of methyloctyl diethylmalonate (6.8 g, 25 mmol) in water (50 mL) and ethanol (50 mL) was added KOH pellets (15.0 g, 250 mmol). The cloudy mixture was then refluxed overnight where it became clear. The solvent was concentrated in vacuo to a white solid. The solid was dissolved in water and extracted with ether (2×). The water layer was then acidified with concentrated HCl and a solid precipitated out of solution. The white solid was filtered and the resulting mother liquor was extracted with ether in order to isolate any additional product. The combined organic layers were concentrated in vacuo and the resulting white solid was added to the filtered solid and dried in a vacuum oven. This afforded 4.3 g of pure product (75%).

reactant | methyloctyl diethylmalonate | 25 mmol, 6.8 g | C(C)C(C(=O)OC(CCCCCCC)C)(C(=O)[O-])CC
reactant | KOH | [OH-].[K+]
reactant | ethanol | 50 mL | C(C)O | C2H6O
solvent | water | 50 mL | O | H2O
product | Methyloctylmalonic Acid | CC(C(=O)O)(C(=O)O)CCCCCCCC | C12H22O4
